US07432291B2
iii) 2-[2-(4-{2-[2-(E)-(4-Trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzyloxy)-ethyl]-2H-[1,2,3]triazole
25 mg (1.0 mmol) 95% Sodium hydride were given to a solution of 219 mg (1.00 mmol) 4-(2-[1,2,3]triazol-2-yl-ethoxymethyl)-phenol in 5.0 ml DMF and stirred for 15 min. 304 mg (1.00 mmol) 4-Chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazole were added and stirring continued at r.t. overnight. After addition of 20 ml water the resulting precipitate was washed twice with 10 ml water, 2×10 ml methanol, diethyl ether and dried at 45° C. in vacuum. Yield 254 mg (52%) colorless powder.

reactant | Sodium hydride | 1.0 mmol, 25 mg | [H-].[Na+]
reactant | 4-(2-[1,2,3]triazol-2-yl-ethoxymethyl)-phenol | 1.00 mmol, 219 mg | N=1N(N=CC1)CCOCC1=CC=C(C=C1)O | C11H13N3O2
reactant | 4-Chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazole | 1.00 mmol, 304 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NO2
reactant | water | 20 ml | O | H2O
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | 2-[2-(4-{2-[2-(E)-(4-Trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzyloxy)-ethyl]-2H-[1,2,3]triazole | FC(OC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(COCCN2N=CC=N2)C=C1)(F)F | C24H21F3N4O4
